### PR TITLE
[Merged by Bors] - feat(InnerProductSpace/Basic): add enorm_inner_le_enorm

### PR DESCRIPTION
**Pull request by TJHeeringa**
This PR adds `enorm_inner_le_enorm`, the Cauchy-Schwartz inequality for `ENNorm`'s.

---

Cauchy-Schwartz exists for `Norm` and `NNorm`, but not for `ENNorm`. This completes the set. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! It's called `enorm`, though - if you fix this everywhere, I'll merge your PR!

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 1]
```diff
@@ -460,6 +460,10 @@ theorem norm_inner_le_norm (x y : E) : ‖⟪x, y⟫‖ ≤ ‖x‖ * ‖y‖ :=
 theorem nnnorm_inner_le_nnnorm (x y : E) : ‖⟪x, y⟫‖₊ ≤ ‖x‖₊ * ‖y‖₊ :=
   norm_inner_le_norm x y
 
+lemma ennorm_inner_le_ennorm (x y : E) : ‖⟪x, y⟫‖ₑ ≤ ‖x‖ₑ * ‖y‖ₑ := by
+  grw [← ofReal_norm, norm_inner_le_norm]
+  simp [ENNReal.ofReal_mul, ofReal_norm]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]:
```suggestion
  simp
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 2]
```diff
@@ -460,6 +460,10 @@ theorem norm_inner_le_norm (x y : E) : ‖⟪x, y⟫‖ ≤ ‖x‖ * ‖y‖ :=
 theorem nnnorm_inner_le_nnnorm (x y : E) : ‖⟪x, y⟫‖₊ ≤ ‖x‖₊ * ‖y‖₊ :=
   norm_inner_le_norm x y
 
+lemma ennorm_inner_le_ennorm (x y : E) : ‖⟪x, y⟫‖ₑ ≤ ‖x‖ₑ * ‖y‖ₑ := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]:
```suggestion
lemma enorm_inner_le_enorm (x y : E) : ‖⟪x, y⟫‖ₑ ≤ ‖x‖ₑ * ‖y‖ₑ := by
```

**Comment by TJHeeringa** [comment]
-awaiting-author

**Comment by grunweg** [comment]
Thanks!
bors merge
